US08283353B2
3′-fluoro-4′-{[4-(trans-4-{[(3R,4S)-4-hydroxytetrahydrofuran-3-yl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 3′-fluoro-4′-({5-oxo-7-propyl-4-[(3a′R,6a′S)-tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.3 g), sodium cyanoborohydride (2.9 g), boron trifluoride-diethyl ether complex (5.9 mL) and tetrahydrofuran (50 mL) was stirred at 70° C. for 2 days. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.39 g, 30%).

reactant | 3′-fluoro-4′-({5-oxo-7-propyl-4-[(3a′R,6a′S)-tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.3 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)C2CCC1(O[C@H]3[C@@H](O1)COC3)CC2)=O)C=2C(=CC=CC2)C#N | C32H32FN5O4
reactant | sodium cyanoborohydride | 2.9 g | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3′-fluoro-4′-{[4-(trans-4-{[(3R,4S)-4-hydroxytetrahydrofuran-3-yl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.39 g, 30% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)O[C@@H]2COC[C@@H]2O)=O)C=2C(=CC=CC2)C#N | C32H34FN5O4
